US08404672B2
A mixture of 4-formylbenzonitrile (2.88 g, 22.0 mmol), azetidine-3-carboxylic acid (2.02 g, 20 mmol), and acetic acid (1.15 mL, 20.0 mmol) in dichloromethane (20 mL) and methanol (80 mL) was stirred at room temperature for 1 h. Sodium triacetoxyborohydride (6.78 g, 32.0 mmol) was added and stirring was continued at room temperature for 18 hr. The volatiles were removed under reduced pressure, and the residue was partitioned between water (50 mL) and diethyl ether (50 mL). The aqueous layer was collected, washed with diethyl ether (50 mL), and concentrated. The residue was dissolved in water (20 mL) and loaded onto a 2.5×20 cm HP-20 column [Preparation of HP-20 Gel: ˜400 ml of dry, unused MCI CHP-20 Gel (75-150 micron) was swelled in methanol for 24 hrs. The gel was filtered and rinsed with 1 liter of methanol. It was then transferred to a bottle for storage under methanol. Immediately before use, the desired amount of gel was rinsed thoroughly with 20 volumes of water]. The column was eluted with 240 mL of water and 400 mL of methanol. The product containing fractions were concentrated and co-evaporated from ethanol and ethyl acetate/heptane to afford 1-(4-cyanobenzyl)azetidine-3-carboxylic acid (3.25 g, 15.0 mmol, 75% yield) as a white solid. MS: (M+H)=217.18. 1H NMR (400 MHz, MeOD) δ ppm 3.39 (m, 1H), 4.08 (m, 4H), 4.32 (s, 2H), 7.63 (d, J=8.3 Hz, 2H), and 7.82 (d, J=8.3 Hz, 2H).

reactant | 4-formylbenzonitrile | 22.0 mmol, 2.88 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | azetidine-3-carboxylic acid | 20 mmol, 2.02 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic acid | 20.0 mmol, 1.15 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 32.0 mmol, 6.78 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | methanol | 80 mL | CO | CH4O
product | 1-(4-cyanobenzyl)azetidine-3-carboxylic acid | 15.0 mmol, 3.25 g, 75% yield | C(#N)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C12H12N2O2
